US05624942
(1) Synthesis of an intermediate, 2-chloro-4-dimethylamino-6-(3-thienylmethyloxy)pyridine
To a solution of 3-thiophenemethanol (0.526 g, 0.0042×1.1 mol) in 10 ml of dry tetrahydrofuran, sodium hydride (0.335 g, (ca.60% in mineral oil), 0.0042×2.0 mol) was added. After the bubbling ceased, a solution of 2,6-dichloro-4-dimethylaminopyridine (0.8 g, 0.0042 mol) in 20 ml of dry tetrahydrofuran was added dropwise at room temperature.

reactant | 3-thiophenemethanol | 1.1 mol, 0.526 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 2.0 mol, 0.335 g | [H-].[Na+]
reactant | 2,6-dichloro-4-dimethylaminopyridine | 0.0042 mol, 0.8 g | ClC1=NC(=CC(=C1)N(C)C)Cl | C7H8Cl2N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-dimethylamino-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC(=C1)N(C)C)OCC1=CSC=C1 | C12H13ClN2OS
